US05869501
N-[4-[(1-t-Butoxycarbonyl-4-piperidyl)oxy]phenyl]-7-cyano-2-naphthalenecarboxamide obtained in Reference Example 47 (200 mg) was dissolved in 4 ml of DMF, 52 mg of sodium hydride (content 60%) was added to the solution, and the mixture was stirred at room temperature for 20 minutes. While stirring at 0° C., 1 ml dimethylformamide solution of 100 ml methanesulfonyl chloride was added dropwise to the reaction solution, followed by 1 day of stirring at room temperature. The reaction solution was evaporated and ethyl acetate was added to the resulting residue. The mixture was washed with saturated sodium bicarbonate aqueous solution and 10% citric acid aqueous solution in that order, dried over anhydrous sodium sulfate, and then evaporated. The resulting residue was purified by silica gel column chromatography using hexane:ethyl acetate (8:2-7:3) as the eluent to give 143 mg of N-[4-[(1-t-butoxycarbonyl-4-piperidyl)oxy]phenyl]-7-cyano-N-methylsulfonyl-2-naphthalenecarboxamide.

reactant | N-[4-[(1-t-Butoxycarbonyl-4-piperidyl)oxy]phenyl]-7-cyano-2-naphthalenecarboxamide | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)NC(=O)C1=CC2=CC(=CC=C2C=C1)C#N | C28H29N3O4
reactant | sodium hydride | 52 mg | [H-].[Na+]
reactant | methanesulfonyl chloride | 100 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | N-[4-[(1-t-butoxycarbonyl-4-piperidyl)oxy]phenyl]-7-cyano-N-methylsulfonyl-2-naphthalenecarboxamide | 143 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)N(C(=O)C1=CC2=CC(=CC=C2C=C1)C#N)S(=O)(=O)C | C29H31N3O6S
